US07402642B2
A glass sleeve for a 450 mL stainless steel, mechanically stirred Parr reactor was charged with PdCl2 (0.85 g, 4.8 mmol), PPh3 (5.03 g, 19.2 mmol), toluene (55 mL, reagent grade), cyclooctadiene (100 g, 92 mmol), and t-butanol (55 mL), and the reactor was assembled and sealed. The reactor was then pressurized with carbon monoxide (600 psi), stirred, and the pressure released. This procedure was repeated three times to purge the system of oxygen. The reactor was then heated to 90° C. and stirred overnight. The reactor was then repressurized with carbon monoxide and allowed to react for an additional 24 hours. The reactor was vented, the glass sleeve was removed, and solvent was removed from the reaction mixture under vacuum. The residual liquid was filtered through a plug of silica and chromatographed on silica (1:4 ethyl acetate:pentane) to give t-butyl cyclooct-4-ene carboxylate as a clear liquid (96 g, 45%). 1H NMR (500 MHz, benzene-d6): δ 5.5–5.6 (m, 2H), 2.37–2.44 (m, 1H), 2.10–2.24 (m, 2H), 1.80–2.00 (m, 4H), 1.59–1.68 (m, 1H), 1.48–1.57 (m, 2H), 1.38 (s, 9H), 1.19–1.29 (m, 1H) ppm. 13C NMR (75 MHz, benzene-d6): δ 176.8, 130.9, 130.3, 79.4, 45.0, 32.6, 30.2, 28.5, 28.5, 26.5, 24.9 ppm. IR (film on NaCl): 3015, 2977, 2931, 2859, 1727, 1469, 1452, 1392, 1367, 1351, 1332, 1310, 1279, 1257, 1235, 1204, 1151, 1121, 1019, 1007, 848, 740, 710 cm−1. HRMS-EI: Theoretical: 210.1620; Found: 210.1615. Analysis calculated for C13H22O2: C, 74.24; H, 10.54. Found: C, 74.45; H, 11.05.

reactant | PPh3 | 19.2 mmol, 5.03 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | toluene | 55 mL | C1(=CC=CC=C1)C | C7H8
reactant | cyclooctadiene | 92 mmol, 100 g | C1=CC=CCCCC1 | C8H12
reactant | carbon monoxide | [C]=O | CO
reactant | t-butanol | 55 mL | C(C)(C)(C)O | C4H10O
catalyst | PdCl2 | 4.8 mmol, 0.85 g | Cl[Pd]Cl
product | t-butyl cyclooct-4-ene carboxylate | 96 g, 45% | C1(CCC=CCCC1)C(=O)OC(C)(C)C | C13H22O2
